US03947445
N-Tosylhydroxy-L-prolinol was converted to 2-tosyl-5-benzyl-2,5-diazabicyclo[2.2.1]heptane which in turn was cyclized to N-benzyl-2,5-diazabicyclo[2.2.1]heptane dihydriodide all according to the procedures reported by P. S. Portoghese and A. A. Mikhail in J. Org. Chem., 31, p 1059, 1966. A two-phase mixture of 6.0 g (0.0135 mole) 2-benzyl-2,5-diazabicyclo[2.2.1]heptane dihydroiodide, 27 ml 20% aqueous sodium hydroxide, and 50 ml chloroform was stirred 1 hour at 0° C. Diethylcarbamyl chloride (2.75 g, 0.0202 mole) in 5 ml chloroform was added and the mixture stirred at 0° C for 1 hour. After 68 hours at ambient temperature, 50 ml hot water was added, and 30 minutes later the organic phase was isolated. One chloroform extract of the aqueous phase was combined with the original organic phase, and the solution was dried with sodium sulfate. Evaporation to dryness in vacuo left 4.87 g of oily crude product that was chromatographed on alumina with chloroform elution. The purified product in 100 ml diethyl ether was converted to the salt by addition of dry 5.9M ethanolic hydrogen chloride. The tacky precipitate was triturated with diethyl ether-acetone to give pure 2-benzyl-5-(N,N-diethyl-carbamyl)2,5-diazabicyclo[2.2.1]heptane hydrochloride (3.2 g, 80% yield, melting point 147°-149° C).

reactant | N-Tosylhydroxy-L-prolinol | S(=O)(=O)(C1=CC=C(C)C=C1)N1[C@](CO)(CCC1)O | C12H17NO4S
reactant | 2-tosyl-5-benzyl-2,5-diazabicyclo[2.2.1]heptane | S(=O)(=O)(C1=CC=C(C)C=C1)N1C2CN(C(C1)C2)CC2=CC=CC=C2 | C19H22N2O2S
reactant | N-benzyl-2,5-diazabicyclo[2.2.1]heptane dihydriodide | I.I.C(C1=CC=CC=C1)N1C2CNC(C1)C2
reactant | p 1059 | CC(=NNC(=O)C1=CC(=NC(=C1)Cl)Cl)C | C9H9Cl2N3O
reactant | 2-benzyl-2,5-diazabicyclo[2.2.1]heptane dihydroiodide | 0.0135 mole, 6.0 g | I.I.C(C1=CC=CC=C1)N1C2CNC(C1)C2
reactant | sodium hydroxide | 27 ml | [OH-].[Na+]
reactant | Diethylcarbamyl chloride | 0.0202 mole, 2.75 g | C(C)N(C(=O)Cl)CC | C5H10ClNO
solvent | chloroform | 5 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | water | 50 ml | O | H2O
product | 2-benzyl-5-(N,N-diethyl-carbamyl)2,5-diazabicyclo[2.2.1]heptane hydrochloride | 3.2 g, 80% yield | Cl.C(C1=CC=CC=C1)N1C2CN(C(C1)C2)C(N(CC)CC)=O | InChI=1S/C17H25N3O.ClH/c1-3-18(4-2)17(21)20-13-15-10-16(20)12-19(15)11-14-8-6-5-7-9-14;/h5-9,15-16H,3-4,10-13H2,1-2H3;1H
